US04082850
Reaction of ethyl 5-chloro-o-toluate with N-bromosuccinimide as described in Example 1a provides ethyl α-bromo-5-chloro-o-toluate.

reactant | ethyl 5-chloro-o-toluate | ClC1=CC=C(C(=C1)C)C(=O)OCC | C10H11ClO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | ethyl α-bromo-5-chloro-o-toluate | BrCC=1C(=CC=C(C1)Cl)C(=O)OCC | C10H10BrClO2
